US06201071B1
Into a 500 ml reaction vessel equipped with a Dean-Stark trap, a Dimroth condenser and a magnetic stirrer bar, 133 g (1 mol) of 1-allylglycerin, 300 ml of dimethyl carbonate, and 3 g (0.075 mol) of sodium hydroxide pellet were charged. The mixture was heated to 60° C., stirred for 30 minutes, and the temperature was then raised to 90° C. to remove a mixture of dimethyl carbonate and the methanol out of the reaction system until any distillate has been no longer distilled. The reaction mixture was cooled, and tetrahydrofuran was added thereto. After filtering off the precipitate, the filtrate was concentrated under reduced pressure to give 150.3 g (95% yield) of 4-allyloxymethyl-1,3-dioxolan-2-one.

reactant | 1-allylglycerin | 1 mol, 133 g | C(C=C)OCC(O)CO | C6H12O3
reactant | sodium hydroxide | 0.075 mol, 3 g | [OH-].[Na+]
reactant | dimethyl carbonate | 300 ml | C(OC)(OC)=O | C3H6O3
product | 4-allyloxymethyl-1,3-dioxolan-2-one | 150.3 g, 95% yield | C(C=C)OCC1OC(OC1)=O | C7H10O4
